US08383644B2
(S)-3-{(S)-2-[3-(3,4-Dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-2-((S)-1-phenyl-propylamino)-propionic acid methyl ester (0.2 g) was dissolved in 8 mL dry dioxane and cooled to 0° C.; paraformaldehyde (50 mg) and 2 mL trifluoroacetic acid were added. The reaction was stirred for 12 hours at room temperature and neutralized to pH 7 with aqueous NaHCO3, then the mixture was extracted with EtOAc. The organic extract was washed with water and brine, and then dried over Na2SO4, filtered and evaporated. The residue was purified by silica gel flash chromatography (9:1 to 7:3 hexanes/EtOAc) to get (3S,8S)-3-[3-(3,4-dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid methyl ester (0.14 g). LCMS (m/z): 619.

reactant | (S)-3-{(S)-2-[3-(3,4-Dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-2-((S)-1-phenyl-propylamino)-propionic acid methyl ester | 0.2 g | COC([C@H](CC1=CC2=C(O[C@H](CO2)C2=CC(=CC=C2)OCC2=CC(=C(C=C2)Cl)Cl)C=C1)N[C@@H](CC)C1=CC=CC=C1)=O | C34H33Cl2NO5
reactant | paraformaldehyde | 50 mg | C=O | CH2O
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | (3S,8S)-3-[3-(3,4-dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid methyl ester | 0.14 g | COC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC(=CC=C3)OCC3=CC(=C(C=C3)Cl)Cl)[C@@H](CC)C3=CC=CC=C3 | C35H33Cl2NO5
